US06297250B1
2,6-Di-(2′-methylpropoxy)-4,8-dipiperidinopyrimidopyrimidine (NU3071)
Sodium metal (0.115 g, 5 mmol) was added to 2-methylpropan-1-ol (0.37 g, 5 mmol) in dry THF (5 ml) and stirred until all had dissolved. 2,6-dichloro-4,8-dipiperidinopyrimidopyrimidine (0.184 g, 0.5 mmol) dissolved in dry THF (10 ml) was added to the alkoxide and the mixture heated under reflux for 42 hours. After cooling to room temperature, water (20 ml) was added and the product extracted into ethyl acetate (4×20 ml). The organic layers were combined, dried (MgSO4), filtered and the solvent removed in vacuo. Recrystallisation from methanol/water yielded the title compound as a yellow crystalline solid (0.122 g, 54%), m.p. 114-116° C.

reactant | Sodium | 5 mmol, 0.115 g | [Na] | Na
reactant | 2-methylpropan-1-ol | 5 mmol, 0.37 g | CC(CO)C | C4H10O
reactant | 2,6-dichloro-4,8-dipiperidinopyrimidopyrimidine | 0.5 mmol, 0.184 g | ClC=1N=C(C2=C(C(=NC(=N2)Cl)N2CCCCC2)N1)N1CCCCC1 | C16H20Cl2N6
reactant | water | 20 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2,6-Di-(2′-methylpropoxy)-4,8-dipiperidinopyrimidopyrimidine | 0.122 g, 54% | CC(COC=1N=C(C2=C(C(=NC(=N2)OCC(C)C)N2CCCCC2)N1)N1CCCCC1)C | C24H38N6O2
